US08486952B2
2-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-5,8-dioxa-2-azaspiro[3.4]octane
Azetidin-3-one was reacted with Preparation G in the manner of Preparation Gi to afford 1-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)azetidin-3-one. LC-MS (M+H)+=300.0 A mixture of ethylene glycol (119 μL, 2.135 mmol), 1-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)azetidin-3-one (320 mg, 1.068 mmol) and 4-methylbenzenesulfonic acid, H2O (20.31 mg, 0.107 mmol) in Benzene (2965 μL) was heated at reflux for 24 h in a Dean-stark apparatus. The resulting mixture was concentrated and purified by Prep-HPLC to afford the title compound. LC-MS (M+H)+=344.0. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.21-7.40 (m, 3H) 7.15 (d, J=7.63 Hz, 2H) 4.35-4.53 (m, 4H) 4.23 (dd, J=9.00, 6.26 Hz, 1H) 4.03 (s, 4H) 2.96-3.09 (m, 1H) 2.80-2.96 (m, 1H) 2.51-2.70 (m, 1H) 2.03-2.16 (m, 1H).

reactant | ethylene glycol | 2.135 mmol, 119 μL | C(CO)O | C2H6O2
reactant | 1-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)azetidin-3-one | 1.068 mmol, 320 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)N2CC(C2)=O | C16H14ClN3O
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | H2O | 0.107 mmol, 20.31 mg | O | H2O
solvent | Benzene | 2965 μL | C1=CC=CC=C1 | C6H6
product | 2-(2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-5,8-dioxa-2-azaspiro[3.4]octane | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)N2CC1(C2)OCCO1 | C18H18ClN3O2
